US09085540B2
Under argon atmosphere, to a mixture of 5-bromo-3-(2,5-dimethyl-1H-pyrrol-1-yl)-1-methyl-1H-pyrazole (100 mg), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine (105 mg), and N,N-dimethylformamide (2 mL) were added a 1,1′-bis(diphenylphosphino)ferrocene-palladium (II) dichloride-dichloromethane complex (32 mg), and cesium carbonate (256 mg), followed by reacting them at 80° C. for 1 hour. After leaving to be cooled, ethyl acetate was added thereto, and the mixture was washed with water and saturated brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol=1:0-9:1) to obtain 4-[3-(2,5-dimethyl-1H-pyrrol-1-yl)-1-methyl-1H-pyrazol-5-yl]-1-methyl-1,2,3,6-tetrahydropyridine (72 mg) as a brown oily substance.

reactant | 5-bromo-3-(2,5-dimethyl-1H-pyrrol-1-yl)-1-methyl-1H-pyrazole | 100 mg | BrC1=CC(=NN1C)N1C(=CC=C1C)C | C10H12BrN3
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine | 105 mg | CN1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C12H22BNO2
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | cesium carbonate | 256 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[3-(2,5-dimethyl-1H-pyrrol-1-yl)-1-methyl-1H-pyrazol-5-yl]-1-methyl-1,2,3,6-tetrahydropyridine | 72 mg | CC=1N(C(=CC1)C)C1=NN(C(=C1)C=1CCN(CC1)C)C | C16H22N4
